US06924278B2
To a mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (3.71 g) and 4-formyl-1-(triphenylmethyl)pyrazole (3.66 g) in 1,2-dichloroethane (80 ml) was added sodium triacetoxyborohydride (2.86 g). After stirring at room temperature for 3 hours, aqueous sodium bicarbonate solution was added to the mixture and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was dissolved in dichloromethane (40 ml) and added to a mixture of trifluoroacetic acid (30 ml) and anisole (15 ml). After stirring for 7.5 hours at room temperature, the mixture was quenched with 10% sodium hydroxide (150 ml) and aqueous sodium bicarbonate and extracted with dichloromethane. The extract was washed with aqueous sodium bicarbonate solution and brine successively, dried over magnesium sulfate, and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and hexane (3:7) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(4-pyrazolylmethyl)piperazine (2.84 g).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 3.71 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
reactant | 4-formyl-1-(triphenylmethyl)pyrazole | 3.66 g | C(=O)C=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
reactant | sodium triacetoxyborohydride | 2.86 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(4-pyrazolylmethyl)piperazine | 2.84 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NNC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C26H26F6N4O
